US04259969
Preparation of 2-(2-Hydroxy-2-phenylethyl)pyridine
A solution of 4.65 grams (0.05 mole) of 2-picoline in 40 milliliters of ether was added, with stirring, to a solution of phenyllithium (0.05 mole) in 30 milliliters of benzene diluted with 50 milliliters of ether. The solution was refluxed for 1 hour and then cooled to 0° C.; a solution of 5.3 grams (0.05 mole) of benzaldehyde in 30 milliliters of ether was added slowly at 0° C. The reaction mixture was stirred at room temperature for 30 minutes. Water was added, and the organic layer was separated and washed with water. Methylene chloride (100 milliliters) was added; the solution was dried over magnesium sulfate and evaporated under reduced pressure to give a solid. The solid was stirred with 50 milliliters of ether, filtered, and washed with 20 milliliters of ether to give 4.1 grams (40%) of virtually pure product. Recrystallization from 1:1 hexane-acetone gave plates, m.p. 105°-107° C. (Lit. m.p., 110° C., Beyerman, H. C., W. Eveleens, and Y. M. F. Muller, Rec. Trav. Chim., 75, 1956, p. 63).

reactant | 2-picoline | 0.05 mole, 4.65 grams | N1=C(C=CC=C1)C | C6H7N
reactant | phenyllithium | 0.05 mole | C1(=CC=CC=C1)[Li]
reactant | benzaldehyde | 0.05 mole, 5.3 grams | C(C1=CC=CC=C1)=O | C7H6O
reactant | Water | O | H2O
solvent | ether | 40 milliliters | CCOCC | C4H10O
solvent | benzene | 30 milliliters | C1=CC=CC=C1 | C6H6
solvent | ether | 50 milliliters | CCOCC | C4H10O
solvent | ether | 30 milliliters | CCOCC | C4H10O
solvent | ether | 50 milliliters | CCOCC | C4H10O
product | 2-(2-Hydroxy-2-phenylethyl)pyridine | OC(CC1=NC=CC=C1)C1=CC=CC=C1 | C13H13NO
